US07521457B2
c) N-(3-oxo-indan-4-yl)-acetamide
147 mg (0.84 mmol) N-indan-4-yl-acetamide are dissolved in 10 ml acetone and combined with 770 μl of a 15% aqueous magnesium sulphate solution. The solution is cooled to 0° C. and 397 mg (2.490 mmol) potassium permanganate are added batchwise. After 2 h the mixture is diluted with 50 ml of water, and extracted three times with 20 ml chloroform. The organic phase is dried with magnesium sulphate and the solvent is eliminated in vacuo and the crude product is purified by chromatography. The carrier used is silica gel and the eluant used is a mixture of cyclohexane:ethyl acetate (85:15).

reactant | N-indan-4-yl-acetamide | 0.84 mmol, 147 mg | C1CCC2=C(C=CC=C12)NC(C)=O | C11H13NO
reactant | magnesium sulphate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | potassium permanganate | 2.490 mmol, 397 mg | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 50 ml | O | H2O
product | N-(3-oxo-indan-4-yl)-acetamide | O=C1CCC2=CC=CC(=C12)NC(C)=O | C11H11NO2
